US04348223
(a) Preparation of 1-(1-methoxyprop-1-yl)-3-nitrobenzene
A 500-milliliter flask equipped with a reflux condenser, an addition funnel and a magnetic stirring bar was charged with 31.6 grams (0.1749 mole) of α-ethyl-3-nitrobenzyl alcohol and 0.4 gram tetrabutylammonium iodide in 100 milliliters of diethyl ether. To this stirred mixture was added 36.4 grams (0.4546 mole) of 50 percent aqueous sodium hydroxide solution. Exothermic heating was observed. This mixture was vigorously stirred for 50 minutes, after which was added dropwise 26.6 grams (0.21 mole) of dimethyl sulfoxide. The mixture was stirred for 18 hours, after which an additional 2.0 grams of dimethyl sulfoxide was added and stirring continued for 2 hours. To this stirred mixture, 20 milliliters of concentrated ammonium hydroxide solution was carefully added and stirring continued for 1 hour. The mixture was then transferred to a separatory funnel, diluted with 100 milliliters of diethyl ether, thoroughly shaken, and the organic phase was withdrawn. The organic phase, after washing with 50 milliliters of water, was dried over magnesium sulfate and concentrated on a rotary evaporator at 55° C., leaving an amber liquid. The amber liquid was charged to a distillation flask and distilled at a pressure of 2.0 millimeters of mercury. A main fraction (21.0 grams) was collected, said fraction having a boiling point of 112° C.-115° C. at 2.0 mm Hg pressure. This main fraction was identified by NMR spectroscopy as 1-(1-methoxyprop-1-yl)-3-nitrobenzene.

reactant | α-ethyl-3-nitrobenzyl alcohol | 0.1749 mole, 31.6 grams | C(C)C(C1=CC(=CC=C1)[N+](=O)[O-])O | C9H11NO3
reactant | sodium hydroxide | 0.4546 mole, 36.4 grams | [OH-].[Na+]
reactant | dimethyl sulfoxide | 0.21 mole, 26.6 grams | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 2.0 grams | CS(=O)C | C2H6OS
reactant | ammonium hydroxide | 20 milliliters | [OH-].[NH4+]
catalyst | tetrabutylammonium iodide | 0.4 gram | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | 100 milliliters | C(C)OCC | C4H10O
solvent | diethyl ether | 100 milliliters | C(C)OCC | C4H10O
product | 1-(1-methoxyprop-1-yl)-3-nitrobenzene | COC(CC)C1=CC(=CC=C1)[N+](=O)[O-] | C10H13NO3
